US07208493B2
To a solution of (7-Bromo-5-methyl-benzo[1,2,4]triazin-3-yl)-phenyl-amine (10 mg, 0.032 mmol) dissolved in 2 ml N,N-Dimethylacetamide in a 20 ml vial, 2-Fluoro-6-methoxy-phenylboronic acid (22 mg, 0.128 mmol) dissolved in 1 ml ethanol and potassium carbonate (6.4 mg, 0.06 mmol) dissolved in 1 ml water were added. Triphenylphosphine (1 mg, 0.0038 mmol) and tris(dibenzylideneacetone) dipalladium (0) (1 mg, 1.09 umol) were added to the mixture. The mixture was reflux overnight. The crude product was filtered and purified by preparative HPLC. 2 mg [7-(2-Fluoro-6-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-yl]-phenyl-amine was isolated. Yield: 17.5%; ESI-MS: [M+H]+, 361; 1H NMR (CDCl3): δ 2.73 (s, 3 H), 3.83 (s, 3 H), 6.83–6.86 (m, 2H), 7.14 (m, 1 H), 7.34 (m, 1 H), 7.45 (m, 2 H), 7.75(s, 1 H), 7.92(m, 2 H), 8.24(s, 1 H).

reactant | (7-Bromo-5-methyl-benzo[1,2,4]triazin-3-yl)-phenyl-amine | 0.032 mmol, 10 mg | BrC1=CC2=C(N=C(N=N2)NC2=CC=CC=C2)C(=C1)C | C14H11BrN4
reactant | 2-Fluoro-6-methoxy-phenylboronic acid | 0.128 mmol, 22 mg | FC1=C(C(=CC=C1)OC)B(O)O | C7H8BFO3
reactant | potassium carbonate | 0.06 mmol, 6.4 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Triphenylphosphine | 0.0038 mmol, 1 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | N,N-Dimethylacetamide | 2 ml | CN(C(C)=O)C | C4H9NO
solvent | ethanol | 1 ml | C(C)O | C2H6O
solvent | water | 1 ml | O | H2O
catalyst | tris(dibenzylideneacetone) dipalladium (0) | 1.09 umol, 1 mg | [Pd].[Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
product | [7-(2-Fluoro-6-methoxy-phenyl)-5-methyl-benzo[1,2,4]triazin-3-yl]-phenyl-amine | 2 mg, Yield: 17.5% | FC1=C(C(=CC=C1)OC)C1=CC2=C(N=C(N=N2)NC2=CC=CC=C2)C(=C1)C | C21H17FN4O
